US04822805
To a solution of 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (1.0 g) in acetic acid (10 ml) were added a solution of hydrogen bromide in acetic acid (28%, 0.2 ml) and pyridinium hydrobromide perbromide (1.49 g), and was stirred at ambient temperature for 19 hours. Then the mixture was poured into ice-water (100 ml), adjusted to pH 4.8 with 8N sodium hydroxide, and extracted with chloroform. The organic layer was washed by aqueous sodium bicarbonate and evaporated, and the residue was triturated in diisopropyl ether to give 2-(5-bromo-2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.92 g).

reactant | 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.0 g | COC1=C(C=CC(=C1)OC)C=1NC(=C(N1)C)C=1C=NC=CC1 | C17H17N3O2
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
product | 2-(5-bromo-2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.92 g | BrC=1C(=CC(=C(C1)C=1NC(=C(N1)C)C=1C=NC=CC1)OC)OC | C17H16BrN3O2
